US08431603B2
(17e) tert-Butyl (3-{4-[(cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate
To a mixture of tert-butyl (3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate (987 mg, 2.83 mmol), DME (80 mL) and water (28 mL) were added {4-[(cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}boronic acid (904 mg, 3.4 mmol), potassium carbonate (785 mg, 5.68 mmol), triphenylphosphine (370 mg, 1.42 mmol) and palladium acetate (63.7 mg, 0.282 mmol) in that order, and the mixture was stirred at 90° C. (internal temperature) for 3 hours. Water was added to the reaction mixture, and then ethyl acetate was added. After thoroughly shaking the mixture, the organic layer was separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and then the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (mixture of n-heptane and ethyl acetate: n-heptane/ethyl acetate=2/1) to obtain the title compound (1.24 g, 2.53 mmol).

reactant | tert-butyl (3-bromo-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 2.83 mmol, 987 mg | BrC=1N2C(SC1)=C(C(=N2)OC)NC(OC(C)(C)C)=O | C11H14BrN3O3S
reactant | {4-[(cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}boronic acid | 3.4 mmol, 904 mg | C1(CCC1)OCC1=CC(=C(C(=C1)OC)B(O)O)OC | C13H19BO5
reactant | potassium carbonate | 5.68 mmol, 785 mg | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 1.42 mmol, 370 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium acetate | 0.282 mmol, 63.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | water | 28 mL | O | H2O
solvent | DME | 80 mL | COCCOC | C4H10O2
product | tert-Butyl (3-{4-[(cyclobutyloxy)methyl]-2,6-dimethoxyphenyl}-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 2.53 mmol, 1.24 g | C1(CCC1)OCC1=CC(=C(C(=C1)OC)C=1N2C(SC1)=C(C(=N2)OC)NC(OC(C)(C)C)=O)OC | C24H31N3O6S
